data/pmechdb/original/mc_train_fold0/raw/train.txt
C[CH:20]=[O:21].C[N:10](C)C>>C[CH:20]([N+:10](C)(C)C)[O-:21] 10=20;20,21=21
CC1CCCC[CH:20]1[Br:21].[C-:10]#N>>CC1CCCC[CH:20]1[C:10]#N.[Br-:21] 10=20;20,21=21
[H:20][O:21]OC(=O)C1=CC=CC(=C1)Cl.CC(=[O:10])C1CC2CC(C(CC2(C3(C1)OCCO3)C)O)(C)O>>[H:20][O+:10]=C(C)C1CC2CC(C(CC2(C3(C1)OCCO3)C)O)(C)O.C1=CC(=CC(=C1)C(=O)O[O-:21])Cl 10=20;20,21=21
CCCC=C(C)[CH:20]=[NH+:21]C(C)(C)C.[OH2:10]>>CCCC=C(C)[CH:20]([NH:21]C(C)(C)C)[OH2+:10] 10=20;20,21=21
CC(C(=O)NC(CC1=CC=CC=C1)C(=O)OCC2=CC=C(C=C2)OC)[NH2:10].C1CC(=O)N(C1=O)O[C:20](=[O:21])OCC2C3=C(C=CC=C3)C4=C2C=CC=C4>>CC(C(=O)NC(CC1=CC=CC=C1)C(=O)OCC2=CC=C(C=C2)OC)[NH2+:10][C:20]([O-:21])(OCC3C4=C(C=CC=C4)C5=C3C=CC=C5)ON6C(=O)CCC6=O 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])CCC(=O)C(C)C.[OH:10][Na].CCO.O>>[H:20][OH+:10][Na].CC(C)C(=O)CC[C:22](=[CH2:21])[O-:23].CCO.O 10=20;22,23=23;20,21=21,22
CN1C(=CN2C=CC=C2C1=O)CC[CH2:20][Cl:21].C1=CC2=C(C=C1)C(=O)[N-:10]C2=O.[K+]>>CN1C(=CN2C=CC=C2C1=O)CC[CH2:20][N:10]3C(=O)C4=C(C3=O)C=CC=C4.[Cl-:21].[K+] 10=20;20,21=21
CC1=CC=CC(CC2C([O:10]2)(CCC1)C)(C)C.Cl[Sn:20](Cl)(Cl)Cl.Cl>>CC1=CC=CC(CC2C([O+:10]2[Sn-:20](Cl)(Cl)(Cl)Cl)(CCC1)C)(C)C.Cl 10=20,
[B:20](F)(F)F.C1C(C(N(C1=O)CC2=CC=CC=C2)[OH:10])O.CCOCC.CC#N>>[B-:20]([OH+:10]C1C(CC(=O)N1CC2=CC=CC=C2)O)(F)(F)F.CCOCC.CC#N 10=20,
C1=NC=NC(=C1Br)CC[CH:20]([OH:10])[OH+:21]CCCO.C(=O)[O-].O>>C(CO)C[OH:21].C1=NC=NC(=C1Br)CC[CH:20]=[OH+:10].C(=O)[O-].O 10=20;20,21=21
C[N:10]1C(=O)NC(C([C:20]1(C2=CC=CC=C2)[OH2+:21])C(=O)OC)C3=CC=CC=C3.O>>C[N+:10]1=[C:20](C(C(NC1=O)C2=CC=CC=C2)C(=O)OC)C3=CC=CC=C3.[OH2:21].O 10=20;20,21=21
[H:20][NH+:21]1C2=C(C=CC(=C2)Cl)C34C1(CC(C3(C)C)CC4)C.C[OH:10].[Cl-]>>[H:20][OH+:10]C.CC1(C2CCC13C4=C(C=C(C=C4)Cl)[NH:21]C3(C2)C)C.[Cl-] 10=20;20,21=21
CCC(=O)NC(CC1CCCCC1)C(=O)[O-:10].CC[C:20](=[O:21])OC(=O)CC.C1=CC=[NH+]C=C1>>CCC(=O)NC(CC1CCCCC1)C(=O)[O:10][C:20](CC)([O-:21])OC(=O)CC.C1=CC=[NH+]C=C1 10=20;20,21=21
[H:20][C:21]1(CCCC([C:22]1=[OH+:23])Br)C(=O)OC.OS(=O)(=O)[O-:10].CC(=O)C=C>>[H:20][O:10]S(=O)(=O)O.COC(=O)[C:21]1=[C:22](C(CCC1)Br)[OH:23].CC(=O)C=C 10=20;22,23=23;20,21=21,22
C1=CC=C[CH:10]=[CH:11]1.C(CC(=O)O[Al-](Cl)(Cl)Cl)[C+:20]=O>>C1=C[CH+:11][CH:10](C=C1)[C:20](=O)CCC(=O)O[Al-](Cl)(Cl)Cl 10,11=10,20
[H:20][O:21]S(=O)(=O)O.CC(=[O:10])OC(=O)CCC=O>>[H:20][O+:10]=C(C)OC(=O)CCC=O.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=C(C=C2)CC(C)C)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CC1=C[C:10](=CC=C1)[CH:20](C2=CC=C(C=C2)CC(C)C)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:10][AlH2-:11]O[C:20](=[N:21]C)C>>[H:10][C:20](C)([N-:21]C)O[AlH2:11] 10,11=10,20;20,21=21
CCCCCC[OH:10].CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.COCOC1=C(C(=C(C2=C1C=C(C(=C2OC)OC)OC)C3=CC(=C(C=C3)OC)OC)C(=O)OC)C(=O)[O-]>>CCCCCC[OH+:10][P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)N(C(=O)OCC)NC(=O)OCC.COCOC1=C(C(=C(C2=C1C=C(C(=C2OC)OC)OC)C3=CC(=C(C=C3)OC)OC)C(=O)OC)C(=O)[O-] 10=20,
CN1C(=CN2C=CC=C2C1=O)CCC[N:10]3[C:20](=[OH+:21])C4=C([C:11]3(NN)[O-:12])C=CC=C4.NN.O.[Cl-].[K+]>>CN1C(=CN2C=CC=C2C1=O)CCC[N:10]=[C:20](C3=C(C=CC=C3)[C:11](=[O:12])NN)[OH:21].NN.O.[Cl-].[K+] 10,11=10,20;20,21=21;12=11
C[Si-](C)(C)(C[C:11]#[C:10]CCCN1[CH:20]=[CH:21][C:22](=[O:23])CC1C2=CC=CC=C2)F>>C[Si-](C)(C)(C[C+:11]=[C:10]1CCCN2[CH:20]1[CH:21]=[C:22](CC2C3=CC=CC=C3)[O-:23])F 10,11=10,20;22,23=23;20,21=21,22
C[C+:20]=O.COC1=C[CH:11]=[CH:10]O1>>C[C:20](=O)[CH:10]1[CH+:11]C=C(O1)OC 10,11=10,20
CC[O+](C1CC2C(C(O1)CO[Si](C3=CC=CC=C3)(C4=CC=CC=C4)C(C)(C)C)OC(=O)O2)[Si-:10](C)(C)(C)[O:11]S(=O)(=O)C(F)(F)F.C[Si](C)(C)CC=C>>CC[O+](C1CC2C(C(O1)CO[Si](C3=CC=CC=C3)(C4=CC=CC=C4)C(C)(C)C)OC(=O)O2)[Si:10](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-:11].C[Si](C)(C)CC=C 10,11=11
[H:20][NH2+:21]O.C1=CC=[N:10]C=C1.CC(=O)C1=CN=CC=C1.[Cl-]>>[H:20][N+:10]1=CC=CC=C1.[NH2:21]O.CC(=O)C1=CN=CC=C1.[Cl-] 10=20;20,21=21
CC[O:10]C1CC2C(C(O1)CO[Si](C3=CC=CC=C3)(C4=CC=CC=C4)C(C)(C)C)OC(=O)O2.C[Si:20](C)(C)OS(=O)(=O)C(F)(F)F.C[Si](C)(C)CC=C>>CC[O+:10](C1CC2C(C(O1)CO[Si](C3=CC=CC=C3)(C4=CC=CC=C4)C(C)(C)C)OC(=O)O2)[Si-:20](C)(C)(C)OS(=O)(=O)C(F)(F)F.C[Si](C)(C)CC=C 10=20,
[H:20][O+:21](CCCCC1C(C2C(C(C(=O)O2)C)C3C1N(CC3)C(=O)OC)CC)S(=O)(=O)C.CC[N:10](CC)CC.[Cl-]>>[H:20][N+:10](CC)(CC)CC.CCC1C(C2C(CCN2C(=O)OC)C3C1OC(=O)C3C)CCCC[O:21]S(=O)(=O)C.[Cl-] 10=20;20,21=21
[H:20][CH:21](CC(=O)C1=C(C=CC(=C1)Cl)OCC2=CC=CC=C2)[C:22](=[NH+:23]C3=CC(=CC=C3)S(=O)(=O)N)C.[OH2:10].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].C[C:22](=[CH:21]CC(=O)C1=C(C=CC(=C1)Cl)OCC2=CC=CC=C2)[NH:23]C3=CC(=CC=C3)S(=O)(=O)N.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
CC1(C(=O)[C:20](=[O:21])C(N1CC2=CC=CC=C2)(C)C)C.[OH-:10]>>CC1(C(=O)[C:20](C(N1CC2=CC=CC=C2)(C)C)([OH:10])[O-:21])C 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCSC[CH:10]=[C:11](O)[OH:12]>>[H:20][CH:10](CSCC)[C:11](=[OH+:12])O.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
